US06103729
3-Cyclopentyloxy-4-methoxybenzoic Acid Chloride
54 g of 3-cyclopentyloxy-4-methoxybenzoic acid was added to 30 ml of thiochloride and was stirred for 5 hours. 50 ml of toluene was added to the reaction solution and was concentrated under reduced pressure to obtain 58 g of the dense brown title compound (yield: 98%).

reactant | 3-cyclopentyloxy-4-methoxybenzoic acid | 54 g | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OC | C13H16O4
reactant | thiochloride | 30 ml | S(Cl)Cl | Cl2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cyclopentyloxy-4-methoxybenzoic Acid Chloride | 58 g, yield: 98% | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO3
